US05750531
Step 2: 2-(2-Methyl-4-fluorophenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopenta[d]pyrimidine hydrochloride
After 4-fluoro-2-methylaniline(0.25 ml, 2.20 mmol) was added to a mixture solution of 4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chlorocyclopenta[d]pyrimidine(0.58 g, 2.0 mmol) and dimethylformamide(5 ml), 0.34 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoro-2-methylaniline | 2.20 mmol, 0.25 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chlorocyclopenta[d]pyrimidine | 2.0 mmol, 0.58 g | C1N(CCC2=CC=CC=C12)C1(C=2C(=NC=N1)C=CC2)Cl | C16H14ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2-Methyl-4-fluorophenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopenta[d]pyrimidine hydrochloride | 0.34 g, Yield: 41.4% | Cl.CC1=C(C=CC(=C1)F)NC1(N=CC=2C(=N1)C=CC2)N2CC1=CC=CC=C1CC2 | InChI=1S/C23H21FN4.ClH/c1-16-13-20(24)9-10-21(16)26-23(25-14-18-7-4-8-22(18)27-23)28-12-11-17-5-2-3-6-19(17)15-28;/h2-10,13-14,26H,11-12,15H2,1H3;1H
